US04605657
Preparation of 2-mercapto-3-allyl-4(3H)-quinazolinone
To a stirred mixture of 50 g (0.33 mole) methyl anthranilate in 100 ml methylene chloride, 32.7 g (0.33 mole) allyl isothiocyanate in 50 ml methylene chloride was added dropwise. The reaction mixture was refluxed at 40° C. one hour, stirred over the weekend at ambient temperature, and refluxed at 40° C. for one hour. The reaction mixture was stripped. Additional methylene chloride (200 ml) was added; the resulting mixture was refluxed at 40° C. for 7 hours, and then stirred about 11/2 days at ambient temperature. The reaction mixture was stripped. Ether was added; a precipitate formed. The above-identified product was isolated by suction filtration.

reactant | methyl anthranilate | 0.33 mole, 50 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | allyl isothiocyanate | 0.33 mole, 32.7 g | C(C=C)N=C=S | C4H5NS
reactant | Ether | CCOCC | C4H10O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-mercapto-3-allyl-4(3H)-quinazolinone | SC1=NC2=CC=CC=C2C(N1CC=C)=O | C11H10N2OS
